US06399604B1
To a solution of 6-pyrrolidino-4-oxo-1,4-dihydro-1,5-naphthyridine-3-carboxylic acid (80 mg, 0.3 mmol) and triethylamine (0.11 mL, 0.8 mmol) in 5:1 tetrahydrofuran: N,N-dimethylformamide (6 mL) at 0° C. was added ethyl chloroformate (0.09 mL, 0.9 mmol). After stirring at 0° C. for 0.5 h, 4-methoxybenzylamine (0.1 mL, 0.8 mmol) was added. The reaction mixture was allowed to ambient temperature and stirred for 0.5 h. Water was added and the resulting precipitate collected, washed with water and ether and dried. The solid was combined with 1N NaOH (5 mL) and ethanol (2 mL) and heated at reflux for 0.25 h. The reaction mixture was cooled in in ice bath, 3N HCl was added to achieve pH 8, and the precipitate collected, rinsed with water and ether and dried to give 69 mg of N-(4-methoxybenzyl) 6-pyrrolidino-4-oxo-1,4-dihydro-1,5-naphthyri-dine-3-carboxamide; m.p. 270-272° C. Compound 8.

reactant | 6-pyrrolidino-4-oxo-1,4-dihydro-1,5-naphthyridine-3-carboxylic acid | 0.3 mmol, 80 mg | N1(CCCC1)C=1N=C2C(C(=CNC2=CC1)C(=O)O)=O | C13H13N3O3
reactant | triethylamine | 0.8 mmol, 0.11 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.9 mmol, 0.09 mL | ClC(=O)OCC | C3H5ClO2
reactant | 4-methoxybenzylamine | 0.8 mmol, 0.1 mL | COC1=CC=C(CN)C=C1 | C8H11NO
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-(4-methoxybenzyl) 6-pyrrolidino-4-oxo-1,4-dihydro-1,5-naphthyri-dine-3-carboxamide | 69 mg | COC1=CC=C(CNC(=O)C2=CNC3=CC=C(N=C3C2=O)N2CCCC2)C=C1 | C21H22N4O3
